US06562839B1
Ethyl 2-ethoxy-6-(4-(hydroxymethyl)imidazole-1-yl)-7-nitroquinoline-3-carboxylate
To a solution of ethyl 2-ethoxy-6-fluoro-7-nitroquinoline-3-carboxylate (1.00 g, 3.24 mmol) in acetonitrile (10 ml) were added 4-(hydroxymethyl)imidazole hydrochloride (2.18 g, 16.2 mmol) and successively triethylamine (3 ml), and the mixture was stirred for 16 hours at 120° C. in a sealed tube under shading. After cooling, solvent was distilled off and the residue was submitted to silica gel column chromatography [dichloromethane-methanol(50:1→20:1)] under shading to obtain 583 mg of title compound as light brown powder. Yield 47%. 1H-NMR(DMSO-d6, δ): 1.35(3H,t,J=7.3 Hz), 1.42(3H,t,J=7.3 Hz), 4.38 (2H,q,J=7.3 Hz), 4.42(2H,d,J=6.8 Hz), 4.58(2H,d,J=7.3 Hz), 5.05(1H, t,J=5.4 Hz), 7.27(1H,s), 7.88(1H,s), 8.39(1H,s), 8.50(1H,s), 8.87 (1H,s).

reactant | ethyl 2-ethoxy-6-fluoro-7-nitroquinoline-3-carboxylate | 3.24 mmol, 1.00 g | C(C)OC1=NC2=CC(=C(C=C2C=C1C(=O)OCC)F)[N+](=O)[O-] | C14H13FN2O5
reactant | 4-(hydroxymethyl)imidazole hydrochloride | 16.2 mmol, 2.18 g | Cl.OCC=1N=CNC1
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Ethyl 2-ethoxy-6-(4-(hydroxymethyl)imidazole-1-yl)-7-nitroquinoline-3-carboxylate | 583 mg, Yield 47% | C(C)OC1=NC2=CC(=C(C=C2C=C1C(=O)OCC)N1C=NC(=C1)CO)[N+](=O)[O-] | C18H18N4O6
